US05262385
Diphenyl ether herbicides
2,4-Dichlorophenyl 4-nitrophenyl ether (Nitrofen), 2,4,6-trichlorophenyl 4'-nitrophenyl ether (Chlornitrofen), 2,4-dichlorophenyl 3-methoxy-4-nitrophenyl ether (Chlomethoxynil), methyl 5-(2,4-dichlorophenoxy)-2-nitrobenzoate (Bifenox), 4-nitrophenyl α,α, -trifluoro-2-nitro-p-tolyl ether (Fluorodifen), 2-chloro-4-trifluoromethylphenyl 3-ethoxy-4-nitrophenyl ether (Oxygluorfen), 5-(2-chloro-α,α,α-trifluoro-p-tolyloxy)-2-nitrobenzoic acid (Acifluorfen), etc.

reactant | 2,4-Dichlorophenyl 4-nitrophenyl ether | [N+](=O)([O-])C1=CC=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl | C12H7Cl2NO3
reactant | 2,4-dichlorophenyl 3-methoxy-4-nitrophenyl ether | COC=1C=C(C=CC1[N+](=O)[O-])OC1=C(C=C(C=C1)Cl)Cl | C13H9Cl2NO4
reactant | methyl 5-(2,4-dichlorophenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=CC(=C1)Cl | C14H9Cl2NO5
reactant | trifluoro-2-nitro-p-tolyl ether | FC(C1=C(C=C(C=C1)OC1=CC(=C(C=C1)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])(F)F | C14H6F6N2O5
reactant | 2-chloro-4-trifluoromethylphenyl 3-ethoxy-4-nitrophenyl ether | C(C)OC=1C=C(C=CC1[N+](=O)[O-])OC1=C(C=C(C=C1)C(F)(F)F)Cl | C15H11ClF3NO4
reactant | 5-(2-chloro-α,α,α-trifluoro-p-tolyloxy)-2-nitrobenzoic acid | ClC1=C(C=CC(=C1)OC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-])C(F)(F)F | C14H7ClF3NO5
product | Diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
